Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.62161687434
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11],-2.88712452132
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],5.196706119080001
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14],4.63892889312
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:8][H:9].[H:7],3.67753652867
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15].[H:1],4.91235266639
[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][O:8][H:9]>>[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]#[C:7][O:8][H:9],3.26375809143
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[O:7].[H:8],1.29099608209
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7][H:8]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.47216309551
[C:10]([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12],-2.19624524803
[H:1][C:2]([H:3])=[C:4].[O:5]=[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10],-0.15849466017
[C:7]([H:8])[H:9].[O:1][O:2][C:3][C:4]([H:5])[H:6]>>[O:1][O:2][C:3]([C:4]([H:5])[H:6])=[C:7]([H:8])[H:9],-5.1804353283800015
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],4.36562130449
[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4].[O:5]=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-0.403826809721
[H:10].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.191475789119999
[H:11].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.79350289289
[C:1]#[C:2][H:3].[C:4]([H:5])([O:6][H:7])=[C:8]([H:9])[H:10]>>[C:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10],-0.61238281752
[H:15].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.38631778615
[H:1][C:2][H:3].[H:4]>>[H:1][C:2]([H:3])[H:4],-5.73886306962
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],3.80473650847
[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:9][H:10]>>[C:1]=[C:2]([H:3])[H:4].[O:5]=[C:6]([H:7])[C:8][O:9][H:10],-0.8951468870799999
[C:7]([H:8])([H:9])=[C:10][O:11][H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-2.15535606607
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])=[C:10]([H:11])[H:12].[H:9],1.5882420276299998
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:7].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:8]([H:9])[H:10],1.70246984278
[C:1]#[C:2][C:3]([O:4][H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([O:4][H:5])[O:6][H:7].[C:8]([H:9])([H:10])[H:11],1.38021644004
[H:10].[H:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.88859011214
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.83446557809
[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.64605559345
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],2.95526895
[H:1][C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.71189636217
